US07960369B2
3-{4-[(4-{[hexyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoic acid
Methyl 3-{4-[(4-{[hexyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate (250 mg) was dissolved in a mixed solvent of methanol (2 mL) and tetrahydrofuran (2 mL), and 2N aqueous sodium hydroxide solution (2 mL) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, acidified with 1N aqueous hydrochloric acid solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was dried using Presep Dehydration tube (manufactured by Wako Pure Chemical Industries, Ltd.) and concentrated to give the title compound (220 mg, yield 90%) as pale-yellow crystals.

reactant | Methyl 3-{4-[(4-{[hexyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoate | 250 mg | C(CCCCC)N(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C33H38N2O3S
reactant | water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
product | 3-{4-[(4-{[hexyl(4-phenyl-1,3-thiazol-2-yl)amino]methyl}benzyl)oxy]phenyl}propanoic acid | 220 mg, yield 90% | C(CCCCC)N(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C32H36N2O3S
